US08729105B2
Preparation of 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid
8.27 g acetylchloride was added dropwise to 120 mL ethanol at 0° C. After 5 minutes, 6 g 6-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carbonitrile was added at 0° C. The reaction mixture was stirred at 90° C. over 20 h. The reaction mixture was partitioned between water and ethyl acetate; then extracted. The organic phase was washed with brine; then dried over MgSO4. The crude product was stirred at room temperature in tetrahydrofuran:water 45:20. 1.77 g lithium hydroxide was added. The reaction mixture was stirred at 80° C. over 7 hours. The reaction mixture was added over acetic acid and extracted with dichloromethane. The organic phase was washed with water; then dried over MgSO4 and purified by chromatography on silica gel with a gradient of heptane to heptane:ethyl acetate 2:1 to yield 4.50 g (70.31%) of the title compound as light yellow solid, MS 304.1 (M+H)+.

reactant | acetylchloride | 8.27 g | C(C)(=O)Cl | C2H3ClO
reactant | 6-(4-chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carbonitrile | 6 g | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C#N)OCC1CC1 | C16H13ClN2O
reactant | ethanol | 120 mL | C(C)O | C2H6O
product | 6-(4-Chloro-phenyl)-5-cyclopropylmethoxy-pyridine-2-carboxylic acid | 4.50 g, 70.31% | ClC1=CC=C(C=C1)C1=C(C=CC(=N1)C(=O)O)OCC1CC1 | C16H14ClNO3
